US06197729B1
h) 5-chloro-6-ethyl-4-[cis-4-(1-hydroxy-2,2,2-trifluoroethyl)cyclohexylamino]pyrimidine
1.3 g of 4,5-dichloro-6-ethylpyrimidine, 2.0 g of cis-4-(1-hydroxy-2,2,2-trifluoroethyl)cyclohexylamine and 1.5 g of potassium carbonate in 20 ml of dimethylformamide were stirred at 90° C. for 3 hours. For work-up, the mixture was concentrated, the residue was taken up in dichloromethane and water and the organic phase was dried and concentrated. Purification was carried out by silica gel chromatography (petroleum ether/ethyl acetate 1:1) to give the title product as a colourless solid.

reactant | 4,5-dichloro-6-ethylpyrimidine | 1.3 g | ClC1=NC=NC(=C1Cl)CC | C6H6Cl2N2
reactant | cis-4-(1-hydroxy-2,2,2-trifluoroethyl)cyclohexylamine | 2.0 g | OC(C(F)(F)F)[C@H]1CC[C@H](CC1)N | C8H14F3NO
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-chloro-6-ethyl-4-[cis-4-(1-hydroxy-2,2,2-trifluoroethyl)cyclohexylamino]pyrimidine | ClC=1C(=NC=NC1CC)N[C@@H]1CC[C@@H](CC1)C(C(F)(F)F)O | C14H19ClF3N3O
